US04185115
Preparation of p-Tridecyloxybenzyl Alcohol
To 200 ml. of 1.0 M borane in tetrahydrofuran, chilled in an ice bath is added dropwise over 30 minutes 32.0 g. of p-tridecyloxybenzoic acid in 450 ml. of tetrahydrofuran. After 22 hours at room temperature, the mixture is poured onto ice. After the ice melts, the solid is filtered and washed with water to give white crystals, m.p. 72°-75° C. Recrystallization from ethanol gives white crystals, m.p. 74°-75° C.

reactant | borane | 1.0 M | B | BH3
reactant | p-tridecyloxybenzoic acid | C(CCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C20H32O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Tridecyloxybenzyl Alcohol | C(CCCCCCCCCCCC)OC1=CC=C(CO)C=C1 | C20H34O2
